US04166817
(c) N-[4-Azido-3-quinolinoyloxy]succinimide
4-Azido-3-quinolinic acid monohydrate (2.3 g; 0.01 M) was suspended at ambient temperatures in dry DMF (25 ml). N-hydroxysuccinimide (1.2 g; 0.01 M) was added and the resulting mixture cooled to 0°-5° C. N,N-dicyclohexylcarbodi-imide (2.3 g; 0.11 M) was added and the mixture stirred at 0°-5° C. for 1/2 hr. then at ambient temperatures for 4 days. The insoluble material was removed by filtration and the filtrate evaporated to dryness in vacuo. The residual solid was recrystallized from iso-propyl alcohol as a light-brown, crystalline solid, 2.5 g. (80%), m.p. 173°-5° C. (dec.)(Found: C, 53.71; H, 2.80; N, 22.47%. C14H9N5O4 requires: C, 54.02; H, 2.89; N, 22.47%), νmax (KBr), 2120, 1790, 1760, 1730, 1490, 1390, 1370, 1202, 890, 780, 640cm-1, δ[(CD3)2SO] 2.9(s)(CH2CH2), 7.57-8.4(m), 9.18(s) (aromatic protons), m/e 311(M+)

reactant | 4-Azido-3-quinolinic acid monohydrate | 0.01 M, 2.3 g | O.N(=[N+]=[N-])C1=C(C=NC2=CC=CC=C12)C(=O)O
reactant | N-hydroxysuccinimide | 0.01 M, 1.2 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[4-Azido-3-quinolinoyloxy]succinimide | N(=[N+]=[N-])C1=C(C=NC2=CC=CC=C12)C(=O)ON1C(CCC1=O)=O | C14H9N5O4
